US07294644B2
Cyclohexylmethyl-2-methyl-5-(3-methyl-pyrazin-2-yl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 1, using cyclohexylamine as R1R2NH, c-cyclohexyl-methylamine as R3—(CH2)m—NH2 and 2-bromo-1-(3-methyl-pyrazin-2-yl)-ethanone (available from 1-(3-methyl-pyrazin-2-yl)-ethanone [23787-80-6] following the procedure described by D. W. Robertson et. Al, J. Med. Chem, 29, 1986, 1577-1586); MS (ISP) 395.4 (M+H)+.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 2-bromo-1-(3-methyl-pyrazin-2-yl)-ethanone | BrCC(=O)C1=NC=CN=C1C | C7H7BrN2O
reactant | 1-(3-methyl-pyrazin-2-yl)-ethanone | CC=1C(=NC=CN1)C(C)=O | C7H8N2O
product | Cyclohexylmethyl-2-methyl-5-(3-methyl-pyrazin-2-yl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=NC=CN=C1C)CC1CCCCC1)C | C24H34N4O
